US08859574B2
A mixture of 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine (40 mg, 0.096 mmol), 2-(bromomethyl)-1,1-difluorocyclopropane (32.8 mg, 0.19 mmol) and triethylamine (20.2 μL, 0.14 mmol) in 1 mL of DMF was heated at 150° C. in a microwave reactor for 30 min. The crude product was purified by RP-HPLC to afford 5-chloro-N2-(4-(1-((2,2-difluorocyclopropyl)methyl)piperidin-4-yl)-2-fluoro-5-methylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine; ESMS m/z 506.2 (M+H+).

reactant | 5-chloro-N2-(2-fluoro-5-methyl-4-(piperidin-4-yl)phenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | 0.096 mmol, 40 mg | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCNCC1)F)NC1=NNC(=C1)C | C20H23ClFN7
reactant | 2-(bromomethyl)-1,1-difluorocyclopropane | 0.19 mmol, 32.8 mg | BrCC1C(C1)(F)F | C4H5BrF2
reactant | triethylamine | 0.14 mmol, 20.2 μL | C(C)N(CC)CC | C6H15N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 5-chloro-N2-(4-(1-((2,2-difluorocyclopropyl)methyl)piperidin-4-yl)-2-fluoro-5-methylphenyl)-N4-(5-methyl-1H-pyrazol-3-yl)pyrimidine-2,4-diamine | ClC=1C(=NC(=NC1)NC1=C(C=C(C(=C1)C)C1CCN(CC1)CC1C(C1)(F)F)F)NC1=NNC(=C1)C | C24H27ClF3N7
